US03962274
To 2 parts of sodium azide is added a solution of 5 parts of 2-(2-methyl-4-nitro-1-imidazolyl)ethyl methanesulfonate (U.S. Pat. No. 3,882,136) in 60 parts of N,N-dimethylformamide. The resultant mixture is stirred at approximately 55° for 4 hours, then cooled and thereupon partitioned between water and toluene. The toluene phase is separated, washed with water, dried over anhydrous magnesium sulfate, and stripped of solvent by vacuum distillation. Crystallization of the residual oil from a mixture of ethyl acetate and hexane affords 1-(2-azidoethyl)-2-methyl-4-nitroimidazole as colorless crystals melting at 73°-75°. The product has the formula ##SPC7##

reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | 2-(2-methyl-4-nitro-1-imidazolyl)ethyl methanesulfonate | CS(=O)(=O)OCCN1C(=NC(=C1)[N+](=O)[O-])C | C7H11N3O5S
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(2-azidoethyl)-2-methyl-4-nitroimidazole | N(=[N+]=[N-])CCN1C(=NC(=C1)[N+](=O)[O-])C | C6H8N6O2
